US05763437
To a solution of (3RS)-3-amino-2,3-dihydro-5-(2-fluorophenyl)-1-(thiomorpholin-4-yl)carbonylmethyl-1H-1,4-benzodiazepin-2-one (0.11 g) in dry methylene chloride (10 ml) was added dropwise a solution of 3-methylphenyl isocyanate (0.043 g) in dry methylene chloride (5 ml) at ambient temperature. After completion of addition, the mixture was stirred at the same condition overnight. The reaction mixture was concentrated in vacuo to afford a crude product. The product was purified by column chromatography on silica gel with an eluent of a mixture of chloroform and methanol (100:1) to afford N-[(3RS)-2,3-dihydro-5-(2-fluorophenyl)-2-oxo-1-(thiomorpholin-4-yl) carbonylmethyl-1H-1,4-benzodiazepin-3-yl)-N'-(3-methylphenyl)urea as a colorless crystalline solid (0.10 g).

reactant | (3RS)-3-amino-2,3-dihydro-5-(2-fluorophenyl)-1-(thiomorpholin-4-yl)carbonylmethyl-1H-1,4-benzodiazepin-2-one | 0.11 g | NC1C(N(C2=C(C(=N1)C1=C(C=CC=C1)F)C=CC=C2)CC(=O)N2CCSCC2)=O | C21H21FN4O2S
reactant | 3-methylphenyl isocyanate | 0.043 g | CC=1C=C(C=CC1)N=C=O | C8H7NO
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | N-[(3RS)-2,3-dihydro-5-(2-fluorophenyl)-2-oxo-1-(thiomorpholin-4-yl) carbonylmethyl-1H-1,4-benzodiazepin-3-yl)-N'-(3-methylphenyl)urea | 0.10 g | FC1=C(C=CC=C1)C1=NC(C(N(C2=C1C=CC=C2)CC(=O)N2CCSCC2)=O)NC(=O)NC2=CC(=CC=C2)C | C29H28FN5O3S
